US04107320
A solution of trans-3-chlorocinnamic acid (25.5 g) and thionyl chloride (33.6 g) in dry benzene (300 ml) was heated at reflux until the evolution of HCl and SO2 had ceased. Excess thionyl chloride and benzene were removed by distillation under reduced pressure to give trans-3-chlorocinnamoyl chloride (28 g) as an oil. A solution of trans-3-cinnamoyl chloride (4.0 g) in dry toluene (75 ml) was added with stirring to a solution of pyrrolidine (4.3 g) in dry benzene (75 ml) at ambient temperature. The reaction mixture was allowed to stir for 10 hr., after which time excess pyrrolidine and solvents were removed under reduced pressure. The residue was triturated with water, filtered, and recrystallized from ethanol/water as follows: the wet solid was dissolved in warm (40 - 45° C) ethanol (90 ml), the resulting solution filtered, and water (ca. 900 ml) added giving crystalline trans-1-(3-chlorocinnamoyl)pyrrolidine, m.p. 137 - 138° C. Elemental analysis, NMR, and IR spectra are consistent with the assigned structure.

reactant | trans-3-chlorocinnamic acid | 25.5 g | ClC=1C=C(/C=C/C(=O)O)C=CC1 | C9H7ClO2
reactant | thionyl chloride | 33.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | trans-3-chlorocinnamoyl chloride | 28 g | ClC=1C=C(/C=C/C(=O)Cl)C=CC1 | C9H6Cl2O
